US05409943
N-(3-(4-Methoxybenzyloxy)-2-pyridyl)-2-methylphenylacetamidine
A mixture of 2-amino-3-(4-methoxybenzyloxy)pyridine (4.6 g, 20 mmol) and ethyl 2methylphenylacetimidate hydrochloride (4.69 g, 22 mmol) in ethanol (80 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave an oil which was taken up in chloroform, convened to the free base by washing with aqueous sodium bicarbonate, and purified by flash chromatography (chloroform/methanol) to obtain the product as a gum (0.38 g).

reactant | 2-amino-3-(4-methoxybenzyloxy)pyridine | 20 mmol, 4.6 g | NC1=NC=CC=C1OCC1=CC=C(C=C1)OC | C13H14N2O2
reactant | ethyl 2methylphenylacetimidate hydrochloride | 22 mmol, 4.69 g | Cl.CC1=C(C=CC=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(3-(4-Methoxybenzyloxy)-2-pyridyl)-2-methylphenylacetamidine | 0.38 g | COC1=CC=C(COC=2C(=NC=CC2)NC(CC2=C(C=CC=C2)C)=N)C=C1 | C22H23N3O2
